US08685980B2
A suspension of Dess-Martin periodinane (0.435 g, 1.06 mmol) in dichloromethane (5 ml) and tert-BuOH (0.1 ml) is stirred at rt. for 15 minutes. To this mixture is added a solution of 7-cyclopentyl-2-(5-hydroxymethyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (0.3 g, 0.79 mmol) in dichloromethane:THF (5 ml:7 ml) over 5 minutes. The reaction is stirred at rt. for 1 h after which ether (50 ml) and NaOH 1M (25 ml) are added. The mixture stirred vigorously for 10 minutes and then the phases are separated. The aqueous layer is back-extracted with ether (25 ml). The combined organic fractions are ished with water, brine, dried (MgSO4) filtered and the solvent evaporated to give 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide as a white solid (0.244 g, 82%).

reactant | Dess-Martin periodinane | 1.06 mmol, 0.435 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 7-cyclopentyl-2-(5-hydroxymethyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.79 mmol, 0.3 g | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)CO)N1C1CCCC1)C | C20H24N6O2
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | NaOH | 1M, 25 ml | [OH-].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | tert-BuOH | 0.1 ml | C(C)(C)(C)O | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.244 g, 82% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C=O)N1C1CCCC1)C | C20H22N6O2
